US07595415B2
3-(4-tert-butyldimethylsilyloxyphenyl)propionic acid (2.13 g, 7.71 mmol) prepared in 3) was dissolved in tetrahydrofuran (32 ml) in nitrogen atmosphere, and triethylamine (1.16 ml, 8.41 mmol) and ethyl chloroformate (0.726 ml, 8.41 ml) were dropwise added under cooling with ice, followed by stirring for 30 minutes. Then, a 28% ammonia aqueous solution was dropwise added, followed by stirring for 5 minutes. The reaction solution was concentrated under reduced pressure, and water was added to the residue, followed by extraction with ethyl acetate twice. The organic layer was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (hexane:ethyl acetate=2:1) to give 3-(4-tert-butyldimethylsilyloxyphenyl)propionic acid amide (1.60 g, 76%) as colorless solid.

reactant | 3-(4-tert-butyldimethylsilyloxyphenyl)propionic acid | 7.71 mmol, 2.13 g | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)CCC(=O)O | C15H24O3Si
reactant | triethylamine | 8.41 mmol, 1.16 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 0.726 ml | ClC(=O)OCC | C3H5ClO2
reactant | ammonia aqueous | [NH4+].[OH-]
solvent | tetrahydrofuran | 32 ml | O1CCCC1 | C4H8O
product | 3-(4-tert-butyldimethylsilyloxyphenyl)propionic acid amide | 1.60 g, 76% | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)CCC(=O)N | C15H25NO2Si
